US20010011134A1
26a Methyl 2-(morpholinosulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate
With stirring, 4.2 g (0.025 mol) of morpholine-N-sulfonyl chloride in 20 ml of THF are added dropwise to a solution of 4.8 g (0.025 mol) of methyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate and 2.9 g (0.025 mol) of N-ethylmorpholine. The mixture is stirred at RT for 2 h and then heated under reflux for another 2 h so that the reaction goes to completion. CHCl3 is added to the reaction solution, which is then treated with 5% strength citric acid, 5% strength NaHCO3 solution and water. The organic phase is dried over Na2SO4 and evaporated to dryness. Yield of ester (26a): 7.5 g (92% of theory)

reactant | morpholine-N-sulfonyl chloride | 0.025 mol, 4.2 g | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
reactant | methyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 0.025 mol, 4.8 g | C1NC(CC2=CC=CC=C12)C(=O)OC | C11H13NO2
reactant | N-ethylmorpholine | 0.025 mol, 2.9 g | C(C)N1CCOCC1 | C6H13NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2-(morpholinosulfonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | O1CCN(CC1)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)OC | C15H20N2O5S
